US08389524B2
(1R)-1-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (for a preparation see Example 13(k) or 15(d)) (50 mg, 0.100 mmol) in chloroform (4 ml) and methanol (0.200 ml) at room temperature under nitrogen was treated with triethylamine (0.042 ml, 0.301 mmol) and stirred for 0.25 h (the suspension turned into a solution). 3,4-Dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (16.35 mg, 0.100 mmol) was then added and the reaction was stirred at room temperature for 0.5 h. Sodium triacetoxyborohydride (67.1 mg, 0.301 mmol) was then added and the reaction was stirred at room temperature. After 3 h there was still some starting material so 30 mg of sodium triacetoxyborohydride were added. After 1 h a saturated aqueous solution of sodium bicarbonate (25 mL) was added followed by 20% methanol/DCM (25 mL) and the aqueous layer was extracted and then separated from the organic layer. The aqueous layer was extracted again twice with 20% methanol/DCM (2×25 mL). The combined organic layers were dried on sodium sulphate, filtered and evaporated to afford 60 mg of crude product. The crude product was purified by silica chromatography (0-20% MeOH/DCM) to afford the free base of the title compound as a yellow solid (39 mg, 87%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 0.301 mmol, 0.042 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-Dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | Sodium triacetoxyborohydride | 0.301 mmol, 67.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 30 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol DCM | 25 mL | CO.C(Cl)Cl
solvent | methanol | 0.200 ml | CO | CH4O
product | (1R)-1-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 39 mg, 87% | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=NC=3C=CC(N2C13)=O)=O | InChI=1S/C24H28N6O3.ClH/c31-22-4-3-20-24-29(23(32)13-27-20)15-19(30(22)24)14-28-7-5-17(6-8-28)25-11-18-10-16-2-1-9-33-21(16)12-26-18;/h3-4,10,12-13,17,19,25H,1-2,5-9,11,14-15H2;1H/t19-;/m1./s1
